US06426345B1
A mixture of ammonium thiocyanate (2.79 g) and benzoyl chloride (3.86 ml) in acetone (30 ml) was refluxed for 5 minutes. Then a solution of 3′-aminoacetanilide (5.00 g) in acetone (40 ml) was added thereto. The mixture was poured into water, and the resulting precipitate was separated by filtration. The crystals were heated at 50° C. for 3 hours with 1N sodium hydroxide (150 ml) solution. The mixture was poured into a mixture of ethyl acetate and water, and the resulting precipitate was collected and washed with ethyl acetate and water to give N-(3-acetylaminophenyl)thiourea (4.22 g).

reactant | ammonium thiocyanate | 2.79 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 3.86 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3′-aminoacetanilide | 5.00 g | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
reactant | water | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N-(3-acetylaminophenyl)thiourea | 4.22 g | C(C)(=O)NC=1C=C(C=CC1)NC(=S)N | C9H11N3OS
